US04525358
16.8 g (0.0417 mole) of methyl 2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]-acetate (prepared in the manner described above in Example 1.3) are dissolved in 65 ml of absolute ethanol. 42 ml of a 1 N ethanolic solution of potassium hydroxide are then added thereto and the reaction mixture is heated under reflux for 4 hours. It is then cooled and the precipitate removed by filitration, after washing with diethyl ether. The filtrate is evaporated to dryness and the evaporation residue is triturated with diethyl ether aand left to crystallize, 10.5 g of hydroscopic potassium 2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]-acetate being obtained. The yield is 56% of theory; M.P. 161°-163° C.

reactant | methyl 2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]-acetate | 0.0417 mole, 16.8 g | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)OC)C1=CC=CC=C1 | C22H27ClN2O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | potassium 2-[2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]-acetate | 10.5 g, yield is 56% | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)[O-])C1=CC=CC=C1.[K+] | InChI=1S/C21H25ClN2O3.K/c22-19-8-6-18(7-9-19)21(17-4-2-1-3-5-17)24-12-10-23(11-13-24)14-15-27-16-20(25)26;/h1-9,21H,10-16H2,(H,25,26);/q;+1/p-1
